US05576324
N-(2-Brom-5-methoxyphenyl)-3,3-dimethylacrylamide (530 mg, 1.87 mmol) was dissolved in m-dichlorobenzene (10 ml). To the resultant solution, aluminum chloride (1.24 g, 9.33 mmol) was added, and the mixture was stirred at 120° C. for 40 minutes. The reaction mixture was poured into ice-water, followed by extracting with chloroform-methanol (10:1), and drying. Subsequently, the residue was subjected to silica gel column chromatography (developer=chloroform-methanol =30:1). From the first eluate, 152 mg of 4,4-dimethyl-5-hydroxy-3,4-dihydrocarbostyril (152 mg, 42.5%) was obtained as pale yellow needles. From the second eluate, 4,4-dimethyl-7-hydroxy-3,4-dihydrocarbostyril (63 mg, 17.6%) was obtained as pale yellow needles.

reactant | N-(2-Brom-5-methoxyphenyl)-3,3-dimethylacrylamide | 1.87 mmol, 530 mg | BrC1=C(C=C(C=C1)OC)NC(C=C(C)C)=O | C12H14BrNO2
reactant | aluminum chloride | 9.33 mmol, 1.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | m-dichlorobenzene | 10 ml | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | 4,4-dimethyl-5-hydroxy-3,4-dihydrocarbostyril | 152 mg, 42.5% | CC1(CC(NC2=CC=CC(=C12)O)=O)C | C11H13NO2
